US08124610B2
5-(1-(4-chlorobenzyl)-1H-pyrazol-4-ylamino)-N-(thiazol-2-yl)pyridine-2-sulfonamide
Into a Vial was added the 5-Bromo-pyridine-2-sulfonic acid thiazol-2-ylamide (50 mg, 0.0002 mol), 9,9-DIMETHYL-4,5-BIS(DIPHENYLPHOSPHINO)XANTHENE (11 mg, 0.000019 mol), Tris(dibenzylideneacetone)dipalladium(0) (5.7 mg, 0.0000062 mol), 1-(4-Chloro-benzyl)-1H-pyrazol-4-ylamine (39 mg, 0.00019 mol) and N,N-Dimethylacetamide (2.1 mL, 0.022 mol). The mixture was sparged with argon for ˜5 min. Sodium tert-butoxide (75 mg, 0.00078 mol) was added and the reaction mixture was heated at 120° C. for 30 min in microwave. The reaction mixture was filtered through celite. The filtrate was diluted with Ethyl acetate and washed with 0.1 N HCl solution, water (3×) and brine, dried over sodium sulfate, filtered and was concentrated to give the crude product that was purified on ISCO (40% to 100% Ethyl acetate). 16.8 mg of the product was obtained as a light tan solid.

reactant | 5-Bromo-pyridine-2-sulfonic acid thiazol-2-ylamide | 0.0002 mol, 50 mg | S1C(=NC=C1)NS(=O)(=O)C1=NC=C(C=C1)Br | C8H6BrN3O2S2
reactant | 9,9-DIMETHYL-4,5-BIS(DIPHENYLPHOSPHINO)XANTHENE | 0.000019 mol, 11 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 1-(4-Chloro-benzyl)-1H-pyrazol-4-ylamine | 0.00019 mol, 39 mg | ClC1=CC=C(CN2N=CC(=C2)N)C=C1 | C10H10ClN3
reactant | N,N-Dimethylacetamide | 0.022 mol, 2.1 mL | CN(C(C)=O)C | C4H9NO
reactant | Sodium tert-butoxide | 0.00078 mol, 75 mg | CC(C)([O-])C.[Na+]
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.0000062 mol, 5.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(1-(4-chlorobenzyl)-1H-pyrazol-4-ylamino)-N-(thiazol-2-yl)pyridine-2-sulfonamide | 16.8 mg | ClC1=CC=C(CN2N=CC(=C2)NC=2C=CC(=NC2)S(=O)(=O)NC=2SC=CN2)C=C1 | C18H15ClN6O2S2
